US06251926B1
A mixture of 4-(chloromethyl)-5-methyl-2-(2-thienyl)oxazole (376 mg), methyl E-4-[(4-hydroxybenzyloxy)imino]-4-phenylbutyrate (500 mg), potassium carbonate (442 mg) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 40 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl E-4-[4-[5-methyl-2-(2-thenyl)-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyrate (495 mg, yield 63%) as a colorless oil from an ethyl acetate-hexane (1:5, v/v)-eluted fraction.

reactant | 4-(chloromethyl)-5-methyl-2-(2-thienyl)oxazole | 376 mg | ClCC=1N=C(OC1C)C=1SC=CC1 | C9H8ClNOS
reactant | methyl E-4-[(4-hydroxybenzyloxy)imino]-4-phenylbutyrate | 500 mg | OC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C18H19NO4
reactant | potassium carbonate | 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
product | methyl E-4-[4-[5-methyl-2-(2-thenyl)-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyrate | 495 mg, yield 63% | CC1=C(N=C(O1)CC1=CC=CS1)COC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C28H28N2O5S
